US05998433
a) Synthesis of 1-(5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-2-(2-naphthoxy)ethan-1-one
To a solution of 0.160 g (1.000 mmol) of 4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride, 0.24 g (1.2 mmol) of 2-naphthoxyacetic acid and 0.55 ml (4.0 mmol) of triethylamine in 30 ml of dichloromethane, 0.24 g (1.5 mmol) of diethyl cyanophosphonate was added dropwise under ice-cooling, followed by overnight stirring at room temperature. The reaction mixture was poured into water and extracted with dichloromethane 2 times. The combined organic layer was washed with water and dried over anhydrous sodium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=3/1 to 1/1). The resulting product was purified by recrystallization from hexane/ethyl acetate (=1/1)-dichloromethane to yield the desired product.

reactant | 4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride | 1.000 mmol, 0.160 g | Cl.O1C=CC2=C1CNCC2
reactant | 2-naphthoxyacetic acid | 1.2 mmol, 0.24 g | C1=C(C=CC2=CC=CC=C12)OCC(=O)O | C12H10O3
reactant | triethylamine | 4.0 mmol, 0.55 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 1.5 mmol, 0.24 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 1-(5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-2-(2-naphthoxy)ethan-1-one | O1C=CC2=C1CN(CC2)C(COC2=CC1=CC=CC=C1C=C2)=O | C19H17NO3
